US07582629B2
2-Butyl-4-hydroxy-5-phenylisothiazol-3(2H)-one 1,1-dioxide
N-Butyl-1-phenylmethanesulfonamide (2.0 g, 8.80 mmol) was dissolved in dry DMF (13 mL) under an atmosphere of nitrogen. Diethyl oxalate (1.44 g, 9.83 mmol) was added and the reaction mixture was cooled to 0° C. using an ice-bath. Potassium tert-butoxide (1.25 g, 11.14 mmol) was added in one portion and the reaction mixture was stirred for 5 mins at 0° C., followed by 19 h at rt. The mixture was cooled in an ice-bath and HCl (2M) was carefully added to give a pH˜1 of the mixture. Most of the solvents were evaporated and the residue was partitioned between HCl (2M) and EtOAc. The combined organic layers were washed with water several times, dried over MgSO4 and evaporated to dryness. The residue was purified using preparative HPLC (ACE C8, 0.1M NH4OAc/MeCN, gradient) to give the title compound (0.96 g, 39%); 1H NMR (400 MHz, DMSO-d6): δ 7.88-7.83 (m, 2H), 7.22-7.29 (m, 3H), 7.14 (bs, 1H), 6.98-7.15 (m, 2H), 3.48 (t, 2H), 1.59-1.67 (m, 2H), 1.27-1.37 (m, 2H), 0.88 (t, 3H); 13C NMR (100 MHz, DMSO-d6): δ 163.1, 158.4, 132.3, 128.7, 124.2, 123.2, 37.8, 30.9, 20.2, 14.1; Mass Spectrum: M−H+ 280.

reactant | N-Butyl-1-phenylmethanesulfonamide | 8.80 mmol, 2.0 g | C(CCC)NS(=O)(=O)CC1=CC=CC=C1 | C11H17NO2S
reactant | Diethyl oxalate | 9.83 mmol, 1.44 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Potassium tert-butoxide | 11.14 mmol, 1.25 g | CC(C)([O-])C.[K+]
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 2-Butyl-4-hydroxy-5-phenylisothiazol-3(2H)-one 1,1-dioxide | pH˜1 | C(CCC)N1S(C(=C(C1=O)O)C1=CC=CC=C1)(=O)=O | C13H15NO4S
